US06407121B1
A mixture of 0.134 g of 5-(2-chloroethyl)-2-hydroxy-4-(4-fluorophenyl)thiazole, 0.11 g of 4-(6-fluorobenzofuran-3-yl)piperidine hydrochloride, 0.28 ml of diisopropylethylamine and 0.5 ml of methanol was stirred with heating under reflux for 15 hours. After the reaction mixture was cooled to room temperature, the solvent was distilled off under reduced pressure, and the residue was purified by a flush chromatography (silica gel: Merckkieselgel 60 230- to 400-mesh, eluent: hexane-ethyl acetate=2:1). The purified product was recrystallized from ethyl acetate-hexane to obtain 0.066 g of 2-hydroxy-4-(4-fluorophenyl)-5-[2-[4-(6-fluorobenzofuran-3-yl)piperidin-1-yl]ethyl]thiazole.

reactant | 5-(2-chloroethyl)-2-hydroxy-4-(4-fluorophenyl)thiazole | 0.134 g | ClCCC1=C(N=C(S1)O)C1=CC=C(C=C1)F | C11H9ClFNOS
reactant | 4-(6-fluorobenzofuran-3-yl)piperidine hydrochloride | 0.11 g | Cl.FC1=CC2=C(C(=CO2)C2CCNCC2)C=C1
reactant | diisopropylethylamine | 0.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 0.5 ml | CO | CH4O
product | 2-hydroxy-4-(4-fluorophenyl)-5-[2-[4-(6-fluorobenzofuran-3-yl)piperidin-1-yl]ethyl]thiazole | 0.066 g | OC=1SC(=C(N1)C1=CC=C(C=C1)F)CCN1CCC(CC1)C1=COC2=C1C=CC(=C2)F | C24H22F2N2O2S
